US07745641B2
1-(tert-Butoxycarbonyl)-5-iodoindole (3.46 g, 10.1 mmol) was dissolved in toluene (45.0 mL), and the solution was added with 4-methylpiperazine (2.24 mL, 20.2 mmol), 2,2′-(diphenylphosphino)-1,1′-binaphthyl (1.26 g, 2.02 mmol), cesium carbonate (4.94 mg, 15.2 mmol) and palladium acetate (226 mg, 1.01 mmol), followed by stirring under reflux for 24 hours. The mixture was added with water and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography (chloroform/methanol=9/1) to obtain 1-(tert-butoxycarbonyl)-5-(4-methylpiperazino)indole (887 mg, 28%).

reactant | 1-(tert-Butoxycarbonyl)-5-iodoindole | 10.1 mmol, 3.46 g | C(C)(C)(C)OC(=O)N1C=CC2=CC(=CC=C12)I | C13H14INO2
reactant | 4-methylpiperazine | 20.2 mmol, 2.24 mL | CN1CCNCC1 | C5H12N2
reactant | cesium carbonate | 15.2 mmol, 4.94 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | toluene | 45.0 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 1.01 mmol, 226 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-(tert-butoxycarbonyl)-5-(4-methylpiperazino)indole | 887 mg, 28% | C(C)(C)(C)OC(=O)N1C=CC2=CC(=CC=C12)N1CCN(CC1)C | C18H25N3O2
